US08076285B2
N2-(tert-Butoxycarbonyl)-L-allothreonine
L-allo-Threonine (3.15 g, 26.44 mmol) is dissolved in water-dioxane (1+2, 75 ml), di-tert-butyl dicarbonate (6.35 g, 29.09 mmol, 1.1 equivalents) and triethylamine (4.79 ml, 34.38 mmol, 1.3 equivalents) are added and the mixture is stirred at room temperature overnight. The solvent is then removed in vacuo. The residue is taken up in ethyl acetate and extracted with 1 M citric acid. The aqueous phase is extracted several times more with ethyl acetate until no product can be detected therein any more (HPLC, method 5). The combined organic extracts are then dried over sodium sulfate, concentrated and dried under oil pump vacuum to constant weight. The product is reacted further without further purification. Yield: 6.5 g of crude product.

reactant | L-allo-Threonine | 26.44 mmol, 3.15 g | N[C@@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | di-tert-butyl dicarbonate | 29.09 mmol, 6.35 g, 1.1 equivalents | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 34.38 mmol, 4.79 ml, 1.3 equivalents | C(C)N(CC)CC | C6H15N
solvent | water dioxane | 75 ml | O.O1CCOCC1
product | N2-(tert-Butoxycarbonyl)-L-allothreonine | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](O)C)C(=O)O | C9H17NO5
